*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.003/0.003


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_4666_6000
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 40.8853
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 40.8853
cd_0_0_0_0 nd_1_0_666_666_ci 0 4.89173e-11
rdload_0_0_0_1 nd_1_0_2000_666 0 76.7366
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 76.7366
cd_0_0_0_1 nd_1_0_2000_666_ci 0 2.60632e-11
rdload_0_0_0_2 nd_1_0_3333_666 0 66.5147
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 66.5147
cd_0_0_0_2 nd_1_0_3333_666_ci 0 3.00685e-11
rdload_0_0_0_3 nd_1_0_4666_666 0 58.3747
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 58.3747
cd_0_0_0_3 nd_1_0_4666_666_ci 0 3.42614e-11
rdload_0_0_0_4 nd_1_0_6000_666 0 43.6881
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 43.6881
cd_0_0_0_4 nd_1_0_6000_666_ci 0 4.5779e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 40.1148
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 40.1148
cd_0_0_0_5 nd_1_0_7333_666_ci 0 4.98569e-11
rdload_0_0_0_6 nd_1_0_8666_666 0 37.0432
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 37.0432
cd_0_0_0_6 nd_1_0_8666_666_ci 0 5.3991e-11
rdload_0_0_0_7 nd_1_0_666_2000 0 63.8767
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 63.8767
cd_0_0_0_7 nd_1_0_666_2000_ci 0 3.13103e-11
rdload_0_0_0_8 nd_1_0_2000_2000 0 57.2085
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 57.2085
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 3.49598e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 101.373
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 101.373
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 1.97291e-11
rdload_0_0_0_10 nd_1_0_4666_2000 0 39.3305
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 39.3305
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 5.08512e-11
rdload_0_0_0_11 nd_1_0_6000_2000 0 71.4284
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 71.4284
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 2.80001e-11
rdload_0_0_0_12 nd_1_0_7333_2000 0 62.5251
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 62.5251
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 3.19872e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 218.181
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 218.181
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 9.16668e-12
rdload_0_0_0_14 nd_1_0_666_3333 0 41.8853
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 41.8853
cd_0_0_0_14 nd_1_0_666_3333_ci 0 4.77495e-11
rdload_0_0_0_15 nd_1_0_2000_3333 0 38.6192
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 38.6192
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 5.17877e-11
rdload_0_0_0_16 nd_1_0_3333_3333 0 69.7667
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 69.7667
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 2.8667e-11
rdload_0_0_0_17 nd_1_0_4666_3333 0 344.755
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 344.755
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 5.80123e-12
rdload_0_0_0_18 nd_1_0_6000_3333 0 204.213
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 204.213
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 9.79371e-12
rdload_0_0_0_19 nd_1_0_7333_3333 0 92.3503
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 92.3503
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 2.16567e-11
rdload_0_0_0_20 nd_1_0_8666_3333 0 78.3132
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 78.3132
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 2.55385e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 741.156
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 741.156
cd_0_0_0_21 nd_1_0_666_4666_ci 0 2.69849e-12
rdload_0_0_0_22 nd_1_0_2000_4666 0 290.346
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 290.346
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 6.88833e-12
rdload_0_0_0_23 nd_1_0_3333_4666 0 52.8432
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 52.8432
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 3.78478e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 40.3329
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 40.3329
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 4.95874e-11
rdload_0_0_0_25 nd_1_0_6000_4666 0 37.2267
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 37.2267
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 5.37249e-11
rdload_0_0_0_26 nd_1_0_7333_4666 0 541.366
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 541.366
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 3.69436e-12
rdload_0_0_0_27 nd_1_0_8666_4666 0 259.365
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 259.365
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 7.71113e-12
rdload_0_0_0_28 nd_1_0_666_6000 0 51.7193
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 51.7193
cd_0_0_0_28 nd_1_0_666_6000_ci 0 3.86703e-11
rdload_0_0_0_29 nd_1_0_2000_6000 0 39.6397
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 39.6397
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 5.04545e-11
rdload_0_0_0_30 nd_1_0_3333_6000 0 72.7592
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 72.7592
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 2.74879e-11
rdload_0_0_0_31 nd_1_0_4666_6000 0 423.883
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 423.883
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 4.71828e-12
rdload_0_0_0_32 nd_1_0_6000_6000 0 56.0139
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 56.0139
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 3.57054e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 156.595
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 156.595
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 1.27718e-11
rdload_0_0_0_34 nd_1_0_8666_6000 0 81.9248
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 81.9248
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 2.44126e-11
rdload_0_0_0_35 nd_1_0_666_7333 0 1302.39
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 1302.39
cd_0_0_0_35 nd_1_0_666_7333_ci 0 1.53563e-12
rdload_0_0_0_36 nd_1_0_2000_7333 0 370.183
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 370.183
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 5.40273e-12
rdload_0_0_0_37 nd_1_0_3333_7333 0 210.579
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 210.579
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 9.49761e-12
rdload_0_0_0_38 nd_1_0_4666_7333 0 145.179
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 145.179
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 1.37761e-11
rdload_0_0_0_39 nd_1_0_6000_7333 0 38.2244
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 38.2244
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 5.23226e-11
rdload_0_0_0_40 nd_1_0_7333_7333 0 68.3271
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 68.3271
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 2.9271e-11
rdload_0_0_0_41 nd_1_0_8666_7333 0 59.5996
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 59.5996
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 3.35573e-11
rdload_0_0_0_42 nd_1_0_666_8666 0 53.3622
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 53.3622
cd_0_0_0_42 nd_1_0_666_8666_ci 0 3.74797e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 137.679
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 137.679
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 1.45265e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 37.4767
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 37.4767
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 5.33666e-11
rdload_0_0_0_45 nd_1_0_4666_8666 0 566.687
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 566.687
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 3.52928e-12
rdload_0_0_0_46 nd_1_0_6000_8666 0 277.494
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 277.494
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 7.20735e-12
rdload_0_0_0_47 nd_1_0_7333_8666 0 173.411
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 173.411
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 1.15333e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 46.8275
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 46.8275
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 4.271e-11

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val147'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val148'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val149'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val150'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val151'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val152'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val153'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val154'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val155'
rd_add0 nd0 0 'esr26'
rd_add1 nd1 0 'esr27'
rd_add2 nd2 0 'esr28'
rd_add3 nd3 0 'esr29'
rd_add4 nd4 0 'esr30'
rd_add5 nd5 0 'esr31'
rd_add6 nd6 0 'esr32'
rd_add7 nd7 0 'esr33'
rd_add8 nd8 0 'esr34'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_666_2000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_666_3333  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_666_6000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_666_7333  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_666_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_666  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_3333  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_2000_4666  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_2000_6000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_2000_8666  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_3333_2000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_3333_3333  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_3333_6000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_3333_7333  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_3333_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3333_666  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3333_3333  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3333_4666  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3333_6000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3333_8666  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4666_2000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4666_3333  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4666_6000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4666_7333  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4666_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_6000_666  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_6000_3333  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_6000_4666  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_6000_6000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_6000_8666  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_2000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_3333  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6000_6000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6000_7333  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6000_8666  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7333_666  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7333_3333  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7333_4666  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7333_6000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7333_8666  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8666_2000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8666_3333  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8666_6000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8666_7333  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8666_8666  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_8666_666  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_8666_3333  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_8666_4666  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_8666_6000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_8666_8666  0.001

.ends chiplet4
